US06903085B1
To a solution of methyl 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate (3.72 g) in methanol (30 ml) was added lithium hydroxide (0.41 g) in water (10 ml) which was stirred under nitrogen for 48 hours. The solvent was removed under reduced pressure, the residue was triturated with ether and filtered to leave lithium 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate (3.50 g).

reactant | methyl 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate | 3.72 g | ClC=1C=C(CN2CCC(CC2)NC(CCC(=O)OC)=O)C=CC1Cl | C17H22Cl2N2O3
reactant | lithium hydroxide | 0.41 g | [OH-].[Li+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | lithium 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate | 3.50 g | ClC=1C=C(CN2CCC(CC2)NC(CCC(=O)[O-])=O)C=CC1Cl.[Li+] | InChI=1S/C16H20Cl2N2O3.Li/c17-13-2-1-11(9-14(13)18)10-20-7-5-12(6-8-20)19-15(21)3-4-16(22)23;/h1-2,9,12H,3-8,10H2,(H,19,21)(H,22,23);/q;+1/p-1
